US08003647B2
4-(3-Cyano-5-dimethylaminocarbonylindol-1-yl)benzoic acid ethyl ester
To a solution of 4-(5-carboxy-3-cyanoindol-1yl)benzoic acid ethyl ester (0.084 g), dimethylamine hydrochloride (0.061 g), triethylamine (0.13 g) and 4-dimethylaminopyridine (0.006 g) in dichloromethane (2.5 mL) was added N-ethyl-N′-3-dimethylaminopropylcarbodiimide (0.058 g) at room temperature, and this mixture was stirred at room temperature overnight. This reaction mixture was poured into 1 mol/L hydrochloric acid, and this mixture was extracted with ethyl acetate. This organic layer was washed with a saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=1/2) to give the title compound (0.020 g).

reactant | 4-(5-carboxy-3-cyanoindol-1yl)benzoic acid ethyl ester | 0.084 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=CC=C12)C(=O)O)C#N)=O | C19H14N2O4
reactant | dimethylamine hydrochloride | 0.061 g | Cl.CNC
reactant | triethylamine | 0.13 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.006 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | 4-(3-Cyano-5-dimethylaminocarbonylindol-1-yl)benzoic acid ethyl ester | 0.020 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=CC=C12)C(=O)N(C)C)C#N)=O | C21H19N3O3
